US05459151
3-cyclopentylidenemethyl-4-methoxybenzaldehyde
4-bromo-2-cyclopentylidenemethylanisole (738 mg, 2.5 mmol) in THF (20 ml) was cooled to -78° C. while stirring under nitrogen. n-Butyllithium (1 ml, 2.5M in Hexane, 2.5 mmol) was added dropwise over 1 minute. N,N-Dimethylformamide (0.5 ml) was added rapidly. The ice bath was removed an the reaction was warmed to room temperature. The reaction was diluted with ethyl acetate (100 ml) and was washed with water (50 ml) and brine (50 ml). The organic was dried over MgSO4, filtered and concentrated. The product was purified via flash chromatography. The yield of the title compound (440 mg, 1.8 mmol) was 72%.

reactant | 4-bromo-2-cyclopentylidenemethylanisole | 2.5 mmol, 738 mg | BrC1=CC(=C(C=C1)OC)C=C1CCCC1 | C13H15BrO
reactant | n-Butyllithium | 2.5 mmol, 2.5M, 1 ml | C(CCC)[Li]
reactant | N,N-Dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 3-cyclopentylidenemethyl-4-methoxybenzaldehyde | 1.8 mmol, 440 mg | C1(CCCC1)=CC=1C=C(C=O)C=CC1OC | C14H16O2
